US05556977
A mixture of 4-hydroxy-3-methylacetophenone (5 g), methyl bromoacetate (3.70 ml) and anhydrous potassium carbonate (5.52 g) in acetone (100 ml) was stirred for 66 hours. The mixture was filtered and the liltrate evaporated to give an oil which crystallised on standing giving methyl 4-acetyl-2-methylphenoxyacetate, 7.2 g: m.p. 51°-53° C.; NMR (d6DMSO) δ7.79 (1H, s), 7.77 (1H, d), 6.94(1H,d), 4.93 (2H, s), 3.71 (3H, s), 2.50 (3H, s+DMSO), 2.24 (3H, s).

reactant | 4-hydroxy-3-methylacetophenone | 5 g | CC1=C(C=CC(=C1)C(=O)C)O | C9H10O2
reactant | methyl bromoacetate | 3.70 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 4-acetyl-2-methylphenoxyacetate | C(C)(=O)C1=CC(=C(OCC(=O)OC)C=C1)C | C12H14O4
